US08084448B2
B. 1-(4-Amino-3-benzyloxyphenyl)-2-methylpentan-3-one
A mixture of 1-(3-benzyloxy-4-nitrophenyl)-2-methylpentan-3-one (450 mg) and Pt/C (22 mg) in EtOAc (15 mL) is hydrogenated at 1 atm for 18 h. The catalyst is filtered and the filtrate evaporated to give the title compound which is used directly in the next step.

reactant | 1-(3-benzyloxy-4-nitrophenyl)-2-methylpentan-3-one | 450 mg | C(C1=CC=CC=C1)OC=1C=C(C=CC1[N+](=O)[O-])CC(C(CC)=O)C | C19H21NO4
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
catalyst | Pt/C | 22 mg | [Pt] | Pt
product | 1-(4-Amino-3-benzyloxyphenyl)-2-methylpentan-3-one | NC1=C(C=C(C=C1)CC(C(CC)=O)C)OCC1=CC=CC=C1 | C19H23NO2
